US07553852B2
Method V: (S)-2-(2-Benzylamino-5-trifluoromethyl-benzoylamino)-butyric acid tert-butyl ester
To a solution of (S)-2-(2-chloro-5-trifluoromethyl-benzoylamino)-butyric acid tert-butyl ester (prepared from 2-chloro-5-trifluoromethylbenzoic acid and (S)-2-aminobutyric acid, tert butyl ester in a procedure similar to that described in method F) (3 g) and benzylamine (1.1 ml) in N-methylpyrolidine (40 ml) was added potassium carbonate (1.6 g), copper (30 mg) and copper (I) bromide (15 mg). The mixture was heated at 160° C. for 3 hours then cooled to room temp. and diluted with saturated ammonium chloride solution. The mixture was extracted with ethyl acetate and the organic solution dried (magnesium sulfate), filtered and concentrated. The residue was purified on silica gel, eluting with 15% ethyl acetate/hexane. The sub-titled product was obtained as a white solid (950 mg, 27%). 1H NMR (400 MHz, CDCl3) δ 1.04 (3H, t), 1.50 (9H, s), 2.86 (1H, m), 2.02 (1H, m), 4.50 (2H, d), 4.65 (1H, m), 6.69 (2H, m), 7.21-7.70 (7H, m), 8.42 (1H, m) ppm; MS ES(−) 435.32 (M−H).

reactant | (S)-2-(2-chloro-5-trifluoromethyl-benzoylamino)-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC)NC(C1=C(C=CC(=C1)C(F)(F)F)Cl)=O)=O | C16H19ClF3NO3
reactant | 2-chloro-5-trifluoromethylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | (S)-2-aminobutyric acid, tert butyl ester | N[C@H](C(=O)OC(C)(C)C)CC | C8H17NO2
reactant | benzylamine | 1.1 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrolidine | 40 ml | CN1CCCC1 | C5H11N
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | copper | 30 mg | [Cu] | Cu
catalyst | copper (I) bromide | 15 mg | [Cu]Br
product | (S)-2-(2-Benzylamino-5-trifluoromethyl-benzoylamino)-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC)NC(C1=C(C=CC(=C1)C(F)(F)F)NCC1=CC=CC=C1)=O)=O | C23H27F3N2O3
